US07057076B2
5-[1-(Hex-1-enyl)-cyclopentyl]resorcinol, (compound 1b)
To a solution of 1-(3,5-dimethoxyphenyl)-1-(hex-1-enyl)-cyclopentane (1 equiv.) in dry hexane (0.05M) at 0° C. under an argon atmosphere was added 9-iodo-9-BBN (2.3 equiv., 1M solution in hexane). The mixture was stirred at the same temperature for 3.5 h and then the reaction temperature was raised to 27° C. Stirring was continued at that temperature until completion of the reaction. The volatiles were removed in vacuo, the residual oil was dissolved in diethyl ether, and a solution of ethanolamine (2.4 equiv.) in THF (1.4 M) was added causing spontaneous precipitation of the 9-BBN.ethanolamine adduct. The suspension was stirred for 2.5 h, the white precipitate was filtered off and the filtrate was evaporated under reduced pressure to give an oil. Purification by flash column chromatography on silica gel using 40% diethyl ether—petroleum ether as eluent afforded the title compound in 82% yield.

reactant | 1-(3,5-dimethoxyphenyl)-1-(hex-1-enyl)-cyclopentane | 1 equiv. | COC=1C=C(C=C(C1)OC)C1(CCCC1)C=CCCCC | C19H28O2
reactant | ethanolamine | 2.4 equiv. | C(O)CN | C2H7NO
solvent | hexane | 0.05M | CCCCCC | C6H14
solvent | THF | 1.4 M | C1CCOC1 | C4H8O
product | 5-[1-(Hex-1-enyl)-cyclopentyl]resorcinol | 82% yield | C(=CCCCC)C1(CCCC1)C=1C=C(C=C(O)C1)O | C17H24O2
